US06495719B2
Butyllithium (24 mL of 2.5 N solution) was added to 120 mL of anhydrous tetrahydrofuran (THF) at −65° C. A solution of diethylphosphonoacetic acid (5.5 g) in 45 mL of anhydrous THF was added dropwise to the stirred solution at −65° C. over a period of one hour. The resulting solution was stirred at −65° C. for an additional 30 minutes and then a solution of p-dimethylaminocinnamaldehyde (5.0 g) in 80 mL of anhydrous THF was added to the reaction at −65° C. over a period of 30 minutes. The reaction was stirred for one hour, allowed to warm to room temperature and then stirred overnight. The reaction was then quenched with 400 mL of water and extracted with 300 mL of ethyl acetate three times. The aqueous layer was acidified with 5% hydrochloric acid (11 mL) to a pH of 6.1. The solid formed was filtered, washed with 75 mL of water and dried to yield 3.83 g of the desired 5-(p-dimethylaminophenyl)-2,4-pentadienoic acid. 1H NMR (DMSO-d6, 300 MHz), δ(ppm) 7.34 (m, 3H), 6.82 (m, 2H), 6.70 (d, 2H), 5.84 (d, 1H), 2.94 (s, 6H).

reactant | Butyllithium | 2.5 N, 24 mL | C(CCC)[Li]
reactant | diethylphosphonoacetic acid | 5.5 g | C(C)OP(=O)(OCC)CC(=O)O | C6H13O5P
reactant | p-dimethylaminocinnamaldehyde | 5.0 g | CN(C1=CC=C(C=CC=O)C=C1)C | C11H13NO
solvent | THF | 45 mL | O1CCCC1 | C4H8O
solvent | THF | 80 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 120 mL | O1CCCC1 | C4H8O
product | 5-(p-dimethylaminophenyl)-2,4-pentadienoic acid | 3.83 g | CN(C1=CC=C(C=C1)C=CC=CC(=O)O)C | C13H15NO2
